US05948911
Following the procedure of Example 1, the reaction of 3,4-methylenedioxyphenethylamine with 2,4-dichloro-5,6-dimethyl-thieno-[2,3-d]-pyrimidine yields 2-chloro-5,6-dimethyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-methylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2O1 | C9H11NO2
reactant | 2,4-dichloro-5,6-dimethyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2C)C)Cl | C8H6Cl2N2S
product | 2-chloro-5,6-dimethyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2C)C)NCCC2=CC1=C(C=C2)OCO1 | C17H16ClN3O2S
